US05378689
2(a) (2S, 4S, 5S)-5-[N-(t-Butoxycarbonyl)-3-(4-thiazolyl)-L-alanyl]amino-N-butyl-6-cyclohexyl-4-hydroxy-2-isopropylhexanamide
A mixture of 370 mg (0.87 mmole) of (2S, 4S, 5S)-5-(t-butoxycarbonyl)amino-6-cyclohexyl-4-hydroxy-2-isopropyl-N-butylhexanamide (prepared as described in Preparation 4) and 5 ml of a 4N solution of hydrogen chloride in dioxane was stirred at room temperature for 30 minutes. At the end of this time, the solvent was removed by distillation under reduced pressure, and the residue was mixed with diethyl ether. The solvent was once again removed by distillation under reduced pressure. This operation was repeated three times, and the final residue was then dried in vacuo for 8 hours. At the end of this time, the dried material was suspended in 10 ml of anhydrous tetrahydrofuran, and 260 mg (0.96 mmole) of N-(t-butoxycarbonyl)-3-(4-thiazolyl)-L-alanine were added to the suspension. After this, 0.15 ml (0.99 mmole) of 95% diethyl cyanophosphonate and 0.27 ml (1.94 mmole) of triethylamine were added, in that order, to the suspension, whilst ice-cooling and under an atmosphere of nitrogen, after which the mixture was stirred for 6 hours. The reaction mixture was then freed from the solvent by evaporation under reduced pressure, and the resulting residue was purified by medium pressure column chromatography through silica gel (using a 20:1 by volume mixture of methylene chloride and methanol as the eluent) to afford 470 mg (yield 93%) of the title compound as white crystals, melting at 201°-203° C.

reactant | (2S, 4S, 5S)-5-(t-butoxycarbonyl)amino-6-cyclohexyl-4-hydroxy-2-isopropyl-N-butylhexanamide | 0.87 mmole, 370 mg | C(C)(C)(C)OC(=O)N[C@H]([C@H](C[C@H](C(=O)NCCCC)C(C)C)O)CC1CCCCC1 | C24H46N2O4
reactant | hydrogen chloride | Cl | ClH
reactant | N-(t-butoxycarbonyl)-3-(4-thiazolyl)-L-alanine | 0.96 mmole, 260 mg | C(C)(C)(C)OC(=O)N[C@@H](CC=1N=CSC1)C(=O)O | C11H16N2O4S
reactant | diethyl cyanophosphonate | 0.99 mmole, 0.15 ml | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | triethylamine | 1.94 mmole, 0.27 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (2S, 4S, 5S)-5-[N-(t-Butoxycarbonyl)-3-(4-thiazolyl)-L-alanyl]amino-N-butyl-6-cyclohexyl-4-hydroxy-2-isopropylhexanamide | 470 mg, yield 93% | C(C)(C)(C)OC(=O)N[C@@H](CC=1N=CSC1)C(=O)N[C@H]([C@H](C[C@H](C(=O)NCCCC)C(C)C)O)CC1CCCCC1 | C30H52N4O5S
